US06051210
4-(((3,5-Bis(acetylmethylamino)-2,4,6-triiodophenyl)carbonyl)amino)-benzenebutyric acid (XIIb) (Scheme 1)
To a solution of 4-aminobenzenebutyric acid 2,2-dimethylethyl ester IXb (2.0 g, 7.5 mmol) in dimethylacetamide (DMA 25 mL), was added 3,5 bis(acetylmethylamino)-2,4,6 triiodobenzoyl chloride X (1.98 g, 3 mmol), and the mixture stirred at 90-95° C. for 6 h. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate (200 mL). The organic extract was washed with saturated sodium bicarbonate (250 mL), water and saturated sodium chloride and dried over sodium sulfate. The solvent was removed in vacuum and the residue purified by a silica gel column (150 g) using hexane/EtOAc to obtain the title compound XIb (1.98 g, yield 74%). (MS: m/e 858 (M-H)-.

reactant | 4-aminobenzenebutyric acid 2,2-dimethylethyl ester | CC(COC(CCCC1=CC=C(C=C1)N)=O)C | C14H21NO2
reactant | 3,5 bis(acetylmethylamino)-2,4,6 triiodobenzoyl chloride | C(C)(=O)CNC=1C(=C(C(=O)Cl)C(=C(C1I)NCC(C)=O)I)I | C13H12ClI3N2O3
solvent | dimethylacetamide | 25 mL | CC(=O)N(C)C | C4H9NO
product | 4-(((3,5-Bis(acetylmethylamino)-2,4,6-triiodophenyl)carbonyl)amino)-benzenebutyric acid | yield 74% | C(C)(=O)CNC=1C(=C(C(=C(C1I)NCC(C)=O)I)C(=O)NC1=CC=C(C=C1)CCCC(=O)O)I | C23H24I3N3O5
